Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
propofol
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___
diabetic male, recent podiatry evaluation for high risk foot
care, remote bilateral hip arthroplasties, otherwise
non-contributory history, hospitalized for cellulitis. Patient
was in his usual state of health until one week ago when he
reportedly fell while negotiating a step in his shower. He 
denies
injury to his right lower extremity at that time, but 
appreciated
onset of "burning" erythema and swelling soon thereafter, which
then worsened, ultimately prompting him to seek care at the
request of his daughter and sister. He was transferred from
urgent care to our emergency department, where he arrived
afebrile and hemodynamically stable. He reportedly had struck 
his
head when falling, so underwent trauma survey in the context of 
a
supratherapeutic INR (3.6), which did not reveal an intracranial
hemorrhage or cervical spine injury. His exam did indeed reveal
impressive erythema and edema of his right lower extremity, so
proceeded with right lower extremity ultrasound, which was not
explanatory. White blood cell count is within normal limits. He
was observed on cephalexin and doxycycline, yet erythema failed
to recede, so was admitted for intravenous antibiotics. He
received two doses of vancomycin. Of note, patient underwent
routine diabetic foot exam on ___. Grossly elongated,
atrophic toe nails were professionally trimmed without injury at
that time. A left-sided second callus was debrided, but no frank
ulcerations were noted. 

REVIEW OF SYSTEMS: constitutionally, he denies fevers, rigors,
night sweats, anorexia, or recent illnesses. He otherwise feels
entirely fine and is requesting to leave, in that regard. He
denies trauma to his right lower extremity while falling. He
confirms he struck his head, but denies headache, nausea,
vomiting, cognitive slowing since. He denies cardiopulmonary,
gastrointestinal, or new urinary symptoms, but did have a
distressing episode of urinary incontinence on arrival, which is
not uncommon for him. 

 
Past Medical History:
-Non-insulin dependent type II diabetes. 
-Atrial fibrillation. Anticoagulated with warfarin.
-Cardioembolic stroke in the context of a PFO with small ASD.
-Bilateral total hip arthroplasties.
-Lumbar spinal stenosis.
-Hypertension.
-Hyperlipidemia.
-Basal cell carcinoma.
 
Social History:
___
Family History:
N/A
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
GENERAL: Elderly male in no apparent physical distress, but
argumentative and emotionally distressed from urinary
incontinence. 
HEENT: Anicteric sclerae. Oropharynx clear.
CV: Irregular. Regular rate. S1/S2. No murmur or gallop.
PULM: Unlabored, lungs clear bilaterally.
ABDOMEN: Soft, non-distended, non-tender.
RIGHT LOWER EXTREMITY: Warmth, erythema, ___ pitting edema to
level of superior tibia. Minor tenderness throughout. No
crepitus. Interdigital maceration. Onychomycosis. Onycholysis. 
No
obvious skin trauma, plantar wound or elsewhere.
LEFT LOWER EXTREMITY: Within normal limits. 
NEURO: Awake, alert, attentive, conversational, oriented but
forgetful. Otherwise non-focal.

DISCHARGE PHYSICAL EXAM:
======================
VS: 24 HR Data (last updated ___ @ 729)
    Temp: 97.7 (Tm 98.1), BP: 165/84 (128-176/60-89), HR: 73
(70-84), RR: 20 (___), O2 sat: 97% (96-99), O2 delivery: Ra  
GENERAL: Alert and in no apparent distress
RESP: Breathing is non-labored, no accessory muscle use
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. RLE with erythema
decreased from mark made yesterday morning. Swelling decreased
and no pain to palpation. Remains markedly erythematous in
comparison to left
SKIN: No rashes or ulcerations noted. Erythema of RLE as noted
above
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
=============
___ 12:20PM BLOOD WBC-8.5 RBC-3.41* Hgb-10.9* Hct-34.0* 
MCV-100* MCH-32.0 MCHC-32.1 RDW-12.6 RDWSD-46.7* Plt ___
___ 12:20PM BLOOD Neuts-72.8* Lymphs-13.4* Monos-8.9 
Eos-2.9 Baso-0.6 Im ___ AbsNeut-6.18* AbsLymp-1.14* 
AbsMono-0.76 AbsEos-0.25 AbsBaso-0.05
___ 12:20PM BLOOD ___ PTT-38.8* ___
___ 12:20PM BLOOD Glucose-145* UreaN-31* Creat-1.1 Na-135 
K-5.5* Cl-97 HCO3-26 AnGap-12
___ 04:10PM BLOOD %HbA1c-6.6* eAG-143*
___ 01:44PM BLOOD K-4.3

DISCHARGE LABS:
==============
___ 11:20AM BLOOD WBC-9.6 RBC-3.53* Hgb-11.3* Hct-36.1* 
MCV-102* MCH-32.0 MCHC-31.3* RDW-12.3 RDWSD-46.8* Plt ___
___ 12:50PM BLOOD Glucose-164* UreaN-25* Creat-1.1 Na-138 
K-3.8 Cl-96 HCO3-29 AnGap-13
___ 12:50PM BLOOD Calcium-9.0 Phos-3.2 Mg-2.0

MICROBIOLOGY:
============
- BCx x2 (___): NGTD

IMAGING:
=======
___ 2:03 ___ ___ CT C-SPINE W/O CONTRAST
No acute fracture.
Degenerative changes spine.
Periodontal disease.

     
___ 2:02 ___ ___ CT HEAD W/O CONTRAST
1. No acute intracranial abnormality.
2. Chronic infarcts basal ganglia, right occipital lobe.

    
___ 1:30 ___ ___ CHEST (PA & LAT)
No acute intrathoracic process.
    
___ 1:02 ___ ___ UNILAT LOWER EXT VEINS
.1 No evidence of deep venous thrombosis in the right lower 
extremity veins.
The peroneal veins were not well visualized.
2. Substantial subcutaneous edema in the right calf.
 
Brief Hospital Course:
___ diabetic male, recent podiatry evaluation for high 
risk foot care, remote bilateral hip arthroplasties, otherwise 
non-contributory history, presented after a mechanical fall with 
an impressive non-purulent cellulitis of his right lower 
extremity, never with features of sepsis, yet failed to recede 
on oral antibiotics alone, prompting hospitalization for 
intravenous antibiotics. Cellulitis promptly lessened in 
distribution, so was safe for discharge by third hospital day 
with plan to complete a 14-day course of antibiotics in total.

#Non-purulent cellulitis, right lower extremity. While 
cellulitis does parallel a recent mechanical fall, no trauma to 
that limb was appreciated. Instead, suspect pedal entry in the 
context of tinea pedis with interdigital maceration, 
onychomycosis and onycholysis. His nails were professionally 
trimmed in recent weeks, but no iatrogenic injury was 
documented, nor did he have any obvious skin trauma. While 
cellulitis was non-purulent in nature without appreciable 
abscess formation, his first exam was impressive, and 
demarcation had yet to recede on oral antibiotics alone, so 
concluded intravenous antibiotics were warranted. Agreed with 
vancomycin, in that regard, which was commenced in the emergency 
department, and added gram negative coverage in the form of 
ceftriaxone, given relative immunosuppression, as a diabetic. He 
was acceptably stable from a sepsis and hemodynamics 
perspective, so was reasonable to defer Pseudomonal coverage. 
There was likewise no concern for a deeper infection. Cellulitis 
markedly improved thereafter, so was safe for discharge with 
Bactrim and cephalexin by third hospital day with plan to 
complete a 14-day course of antibiotics in total.

#Atrial fibrillation. Rate proved well controlled on home Toprol 
XL. His
INR, however, was supratherapeutic (4.0), and rising (4.3), so 
held
warfarin dose for two days, but favored 2 mg on day of discharge 
for INR 2.7, given what is seemingly an historical cardioembolic 
stroke in the context of a
PFO with ASD.

#Urinary incontinence. No contraindication to his home 
tamsulosin.

TRANSITIONAL ISSUES
[]Ensure compliance with Bactrim and cephalexin for completion 
of a 14-day course of antibiotics in total (projected end date = 
___.
[]Consider topical azole for probable onychomycosis. 
[]Confirm no growth on outstanding blood cultures. 
[]INR supratherapeutic until day of discharge, which is 2.7, so 
received 2 mg (see warfarin worksheet). Note theoretical 
interaction between Bactrim and warfarin. Repeat INR tomorrow 
and amend dosing, as indicated. Anticipate lower weekly dose 
will be in order.
[]Formal neurocognitive evaluation might be prudent for what is 
seemingly an unspecified dementia, though not entirely confident 
he would be amenable to this.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Metoprolol Succinate XL 50 mg PO DAILY 
3. Warfarin 2 mg PO 2X/WEEK (___) 
4. Warfarin 4 mg PO 5X/WEEK (___) 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 12 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*48 Capsule Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 12 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*24 Tablet Refills:*0 
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  Tamsulosin 0.4 mg PO QHS  
5. HELD- Warfarin 2 mg PO 2X/WEEK (___)  This medication was 
held. Do not restart Warfarin until instructed by your primary 
provider. You have an appointment tomorrow, ___. Dr. 
___ will discuss your dose then.
6. HELD- Warfarin 4 mg PO 5X/WEEK (___)  This 
medication was held. Do not restart Warfarin until instructed by 
your primary provider. You have an appointment tomorrow, 
___. Dr. ___ will discuss your dose then.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
-Cellulitis, right lower extremity.

SECONDARY
-Atrial fibrillation. 
-Urinary incontinence.
-Hypertension.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - short distances without assistance 
but requires rolling walker outside of his home.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___. You were hospitalized for an infection of your 
right leg called cellulitis. You received antibiotics through 
your vein and the redness and swelling improved. You never had a 
fever and your blood pressure was normal, so it was safe for you 
to return home. Please continue to take two antibiotics by mouth 
for 12 (twelve) more days. It is very important that you do not 
miss any doses. You have an appointment with your primary doctor 
tomorrow, ___. He will evaluate your leg at that time. 
Your INR was above goal, so your warfarin (Coumadin) was held 
for two days. On the day of discharge, you received 2 mg for an 
INR of 2.7. Do not take another dose this evening. Your INR will 
be checked again tomorrow, and Dr. ___ will advise on warfarin 
(Coumadin) dose. We wish you all the ___.

Sincerely,
Your ___ care team   
 
Followup Instructions:
___